US06344449B1
a) 1-(1,1-dimethyethoxycarbonyl)-4-piperidinecarboxylic acid
To a mixture of 25.9 g (0.2 mol) of piperidine-4-carboxylic acid, 200 ml (0.2 mol) of iN sodium hydroxide solution and 200 ml of tetrahydrofuran were added 48.0 g (0.22 mol) of di-tert.-butyl pyrocarbonate and the mixture was stirred overnight at room temperature. The tetrahydrofuran was distilled off, finally in vacuo, and the remaining aqueous solution was acidified with citric acid. The colourless crystals precipitated were suction filtered and dried at 40° C. in a circulating air drier.

reactant | piperidine-4-carboxylic acid | 0.2 mol, 25.9 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | di-tert.-butyl pyrocarbonate | 0.22 mol, 48.0 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(1,1-dimethyethoxycarbonyl)-4-piperidinecarboxylic acid | CC(C)(OC(=O)N1CCC(CC1)C(=O)O)C | C11H19NO4
